US07109243B2
(S)-N-[1-[2-(4-Methoxy-phenylamino)-ethylcarbamoyl]-2-(4-phenoxy-phenyl)-ethyl]-3-methyl-benzamide
O-t-Butyl-L-tyrosine 1 (2.00 g, 7.8 mmol) was dissolved in H2O (10 mL) containing equimolar amounts of NaOH (0.31 g, 7.8 mmol). The solution was cooled to 0° C., then m-toluoyl chloride (1.04 mL, 7.8 mmol) was added dropwise under vigorous stirring. The mixture was allowed to warm to room temperature and stirred for approx. 2 h. After acidification with 0.25 M phosphate buffer (pH 6.2), the product was extracted from the reaction mixture three times with EtOAc. The combined organic layers were dried (MgSO4), filtered and the solvent was removed in vacuo to yield (S)-3-(4-tert-Butoxy-phenyl)-2-(3-methyl-benzoylamino)-propionic acid 2 (2.17 g, 6.1 mmol, 78%) as a white solid: 1H-NMR (400 MHz, CD3OD) δ=7.51–6.87 (m, 8H), 4.82 (dd, J=5.0, J=9.8, 1H), 3.33–3.28 (m, 1H), 3.09–3.03 (m, 1H), 2.35 (s, 3H), 1.27 (s, 9H). MS calcd. for C21H26NO4 (M+H+) 356.19. found 356.4. Step B: (S)-3-(4-tert-Butoxy-phenyl)-2-(3-methyl-benzoylamino)-propionic acid 2 (0.80 g, 2.25 mmol) was dissolved in DCM (20 mL), HOBt (0.37 g, 2.7 mmol) and DIC (0.42 ml, 2.7 mmol) were added and the solution was stirred for 10 min at room temperature. N-(4-Mthoxyphenyl)-ethane-1,2-diamine (0.45 g, 2.7 mmol) was added and the solution was stirred for 6 h at room temperature. The reaction mixture was then diluted with DCM and washed with H2O three times. The organic layer was dried (MgSO4), filtered and the solvent was removed in vacuo. The remainder was purified by chromatography (silica, DCM/MeOH gradient) and dried under high vacuum to afford (S)-N-{2-(4-tert-Butoxy-phenyl)-1-[2-(4-methoxy-phenylamino)-ethylcarbamoyl]-ethyl}-3-methyl-benzamide 3 (0.71 g, 1.4 mmol, 63%) as a white solid: 1H-NMR (400 MHz, CD3OD) δ=7.55–6.79 (m, 12H), 4.80 (m, 1H), 3.76 (s, 3H), 3.52–3.47 (m, 2H), 3.24–3.15 (m, 4H), 2.37 (s, 3H), 1.32 (s, 9H). MS calcd. for C30H38N3O4 (M+H+) 504.29. found 504.6. Step C: (S)-N-{2-(4-tert-Butoxy-phenyl)-1-[2-(4-methoxy-phenylamino)-ethylcarbamoyl]-ethyl}-3-methyl-benzamide (0.50 g, 1.0 mmol) was dissolved in DCM containing 10% trifluoroacetic acid. The solution was stirred at room temperature for 1 h, then the solvents were removed in vacuo. The remaining crude material was purified by chromatography (silica, DCM/MeOH gradient) and dried under high vacuum to yield (S)-N-{2-(4-Hydroxy-phenyl)-1-[2-(4-methoxy-phenylamino)-ethylcarbamoyl]-ethyl}-3-methyl-benzamide 4 (0.40 g, 0.9 mmol, 90%): 1H-NMR (400 MHz, CD3OD) δ=7.62–7.57 (m, 2H), 7.40–7.33 (m, 2H), 7.14–7.12 (m, 2H), 6.85–6.73 (m, 6H), 4.68 (t, J=7.6, 1H), 3.75 (s, 3H), 3.41–3.38 (m, 2H), 3.25–3.01 (m, 4H), 2.41 (s, 3H). MS calcd. for C26H30N3O4 (M+H+) 448.22. found 448.2. Step D:. (S)-N-{2-(4-Hydroxy-phenyl)-1-[2-(4-methoxy-phenylamino)-ethylcarbamoyl]-ethyl}-3-methyl-benzamide (0.02 g, 0.05 mmol) 4 was suspended in DCM (1 mL) together with phenyl-boronic acid (7 mg, 0.06 mmol), Cu(OAc)2 (16 mg, 0.09 mmol) and NEt3 (30 μL, 0.23 mmol). The mixture was stirred at room temperature for 14 h. The solvent was removed and the crude products were separated on reversed phase HPLC. The fraction containing the title compound 5(S)-N-[1-[2-(4-Methoxy-phenylamino)-ethylcarbamoyl]-2-(4-phenoxy-phenyl)-ethyl]-3-methyl-benzamide (R═H) was lyophilized to yield a white solid (5 mg, 0.009 mmol, 19%): 1H-NMR (400 MHz, CD3OD) δ=7.60–6.89 (m, 17H), 4.65 (dd, J=7.1, J=8.4, 1H), 3.81 (s, 3H), 3.61–3.07 (m, 6H), 2.37 (s, 3H). MS calcd. for C32H34N3O4 (M+H+) 524.25. found 524.4.

reactant | (S)-N-{2-(4-Hydroxy-phenyl)-1-[2-(4-methoxy-phenylamino)-ethylcarbamoyl]-ethyl}-3-methyl-benzamide | 0.05 mmol, 0.02 g | OC1=CC=C(C=C1)C[C@@H](C(NCCNC1=CC=C(C=C1)OC)=O)NC(C1=CC(=CC=C1)C)=O | C26H29N3O4
reactant | phenyl-boronic acid | 0.06 mmol, 7 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | NEt3 | 0.23 mmol, 30 μL | CCN(CC)CC | C6H15N
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
catalyst | Cu(OAc)2 | 0.09 mmol, 16 mg | CC(=O)[O-].CC(=O)[O-].[Cu+2]
product | (S)-N-[1-[2-(4-Methoxy-phenylamino)-ethylcarbamoyl]-2-(4-phenoxy-phenyl)-ethyl]-3-methyl-benzamide | 0.009 mmol, 5 mg, 19% | COC1=CC=C(C=C1)NCCNC(=O)[C@H](CC1=CC=C(C=C1)OC1=CC=CC=C1)NC(C1=CC(=CC=C1)C)=O | C32H33N3O4
